US07645791B2
5-Benzo[b]thiophen-2-yl-3-tert-butyl-N-(2-chloro-4-cyano-phenyl)-2-hydroxy-benzamide
The title compound was prepared from 3-bromo-5-tert-butyl-N-(2-chloro-4-cyanophenyl)-6-hydroxy-benzamide and benzothiophen-2-boronic acid

reactant | 3-bromo-5-tert-butyl-N-(2-chloro-4-cyanophenyl)-6-hydroxy-benzamide | BrC=1C=C(C(=O)NC2=C(C=C(C=C2)C#N)Cl)C(=C(C1)C(C)(C)C)O | C18H16BrClN2O2
reactant | benzothiophen-2-boronic acid | S1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO2S
product | 5-Benzo[b]thiophen-2-yl-3-tert-butyl-N-(2-chloro-4-cyano-phenyl)-2-hydroxy-benzamide | S1C2=C(C=C1C=1C=C(C(=C(C(=O)NC3=C(C=C(C=C3)C#N)Cl)C1)O)C(C)(C)C)C=CC=C2 | C26H21ClN2O2S
